US04376201
A pyridine solution of 3-aminopropylpivalamide (approximately 35 percent by weight aminoamide) was fed continuously to a heated 1"×20" reactor maintained at 330° to 345° C. The reactor was packed with 50 g of 0.5 percent palladium on alumina. After removal of pyridine by distillation, the product, 2-t-butylpyrimidine was obtained, b.p. 160° to 163° C.

reactant | 3-aminopropylpivalamide | NCCCCC(C(=O)N)(C)C | C8H18N2O
catalyst | palladium on alumina | 50 g | [Pd] | Pd
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-t-butylpyrimidine | C(C)(C)(C)C1=NC=CC=N1 | C8H12N2
